US04046900
19.1 g of 1acetylisonipecotoyl chloride, Example 1(b) are added portionwise to a stirring suspension of 13 g of t-butylbenzene and 27 g of aluminum chloride in 175 ml of dichloroethane. The reaction mixture is refluxed for 1 hour, cooled, and poured onto ice. The organic layer is separated and the aqueous layer is extracted with chloroform. The organic layers are combined, dried, and the solvent is removed under reduced pressure leaving the oil, 1-acetyl-4-(4-t-butylbenzoyl)piperidine.

reactant | 1acetylisonipecotoyl chloride | 19.1 g | C(C)(=O)N1CCC(C(=O)Cl)CC1 | C8H12ClNO2
reactant | t-butylbenzene | 13 g | C(C)(C)(C)C1=CC=CC=C1 | C10H14
reactant | aluminum chloride | 27 g | [Cl-].[Al+3].[Cl-].[Cl-]
solvent | dichloroethane | 175 ml | ClC(C)Cl | C2H4Cl2
product | 1-acetyl-4-(4-t-butylbenzoyl)piperidine | C(C)(=O)N1CCC(CC1)C(C1=CC=C(C=C1)C(C)(C)C)=O | C18H25NO2
